US07626020B2
N-(Isobutoxycarbonyl) N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-[1,3,4-oxadiazol-2-yl]phenyl) Pyridine-3-sulphonamide
Palladium acetate (0.4144 g) and 3,3′,3″-phosphinidyne tris(benzenesulphonic acid) trisodium salt 30% w/w aq sol (3.26 g) were dissolved in water (35 ml) over 6 minutes in an ultrasonic bath. The yellow solution was added to a stirred slurry of [4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid (10 g) and isobutyl [(2-chloropyridin-3-yl)sulfonyl](3-methoxy-5-methylpyrazin-2-yl)carbamate (16.86 g) in xylene (100 ml), industrial methylated spirit (50 ml) and triethylamine (17 ml). The catalyst dissolution flask was then washed in with water (5 ml) and the reaction mixture heated to reflux (80° C.) on an oil bath (105° C.) and stirred at reflux for 24.5 hours. The reaction mixture was cooled to 30° C. and filtered through a Whatman GF/B glass filter paper and the lower aqueous phase separated off. The reaction flask and filter cake was washed with xylene (20 ml). The xylene wash was used to re-extract the aqueous phase. The combined organic phases were stirred and heated to reflux (85° C.) in a clean 500 ml 4-necked flask equipped with overhead stirrer, water condenser, and nitrogen atmosphere. Essochem solvent 30 (hydrocarbons Bp 100-130° C.) (100 ml) was added dropwise over 6 min and the mixture was allowed to self cool to ambient temperature and then further cooled to −5° C. and held for 1 hour. The product was filtered off and washed with Essochem solvent 30 (50 ml). The cake was dried on the filter for 3 hours to give 15.20 g@100% strength, yield 76.8%. 270 MHz 1H-NMR Spectrum: 0.70 (d, 6H), 1.72 (m, 1H), 2.51 (s, 3H), 3.84 (d, 2H), 4.00 (s, 3H), 7.59 (m, 1H); 7.80 (d, 2H), 7.90 (s, 1H), 8.17 (d, 2H), 8.50 (s, 1H), 8.90 (m, 1H) and 9.00 (d, 1H). Mass Spectrum MH+=525.2 (C24H25N6O6S=525.16).

reactant | 3,3′,3″-phosphinidyne tris(benzenesulphonic acid) trisodium salt | [Na+].[Na+].[Na+].P(C=1C=C(C=CC1)S(=O)(=O)[O-])(C=1C=C(C=CC1)S(=O)(=O)[O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | [4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid | 10 g | O1C(=NN=C1)C1=CC=C(C=C1)B(O)O | C8H7BN2O3
reactant | isobutyl [(2-chloropyridin-3-yl)sulfonyl](3-methoxy-5-methylpyrazin-2-yl)carbamate | 16.86 g | ClC1=NC=CC=C1S(=O)(=O)N(C(OCC(C)C)=O)C1=NC=C(N=C1OC)C | C16H19ClN4O5S
solvent | water | 35 ml | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | triethylamine | 17 ml | C(C)N(CC)CC | C6H15N
catalyst | Palladium acetate | 0.4144 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(Isobutoxycarbonyl) N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-[1,3,4-oxadiazol-2-yl]phenyl) Pyridine-3-sulphonamide | yield 76.8% | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C=1OC=NN1)C1=NC=C(N=C1OC)C | C24H24N6O6S
